US08957093B2
Step 2: (S)-2-methyl-N-((R)-2,2,2-trifluoro-1-(3-isopropylphenyl)ethyl)propane-2-sulfinamide
Tetra-n-butylammonium difluorotriphenylsilicate (TBAT) (1.19 g, 2.13 mmol) and (trifluoromethyl)trimethylsilane (TMS-CF3) (0.371 mL, 2.33 mmol) was added to a solution of (S,E)-N-(3-isopropylbenzylidene)-2-methylpropane-2-sulfinamide (0.487 g, 1.937 mmol) in anhydrous THF (16 mL) at −20° C. under argon. The reaction was allowed to proceed for ˜2 h where the starting material appeared to have been consumed as determined by analytical-HPLC. A saturated solution of NH4Cl (20 mL) was added to quench and the mixture was extracted with EtOAc (100 mL×3) and dried over Na2 SO4. The organic partition was then concentrated to an oil and the title compound was isolated by flash chromatography using silica gel (EtOAc:Hexanes). ESI-MS (m/z): 321 [M+1]+.

reactant | (trifluoromethyl)trimethylsilane | 2.33 mmol, 0.371 mL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | (S,E)-N-(3-isopropylbenzylidene)-2-methylpropane-2-sulfinamide | 1.937 mmol, 0.487 g | C(C)(C)C=1C=C(\C=N\[S@@](=O)C(C)(C)C)C=CC1 | C14H21NOS
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | (S)-2-methyl-N-((R)-2,2,2-trifluoro-1-(3-isopropylphenyl)ethyl)propane-2-sulfinamide | CC(C)(C)[S@](=O)N[C@@H](C(F)(F)F)C1=CC(=CC=C1)C(C)C | C15H22F3NOS
